US07732618B2
a.) 4-Nitro-2-propyl-1H-benzoimidazole: (Scheme 3)
3-Nitro-benzene-1,2-diamine (1.0 g, 6.54 mmol) and butyraldehyde (630 μL, 7.19 mmol) were stirred in POCl3 (10 mL) at 85° C. for 3 hours. The reaction was cooled to ambient temperature and poured over ice. The resulting mixture was basified with NH4OH. The precipitate was filtered and washed with ice water to give 1.17 g of the sub-title compound that was used without further purification.

reactant | 3-Nitro-benzene-1,2-diamine | 6.54 mmol, 1.0 g | [N+](=O)([O-])C1=C(C(=CC=C1)N)N | C6H7N3O2
reactant | butyraldehyde | 7.19 mmol, 630 μL | C(CCC)=O | C4H8O
reactant | NH4OH | [NH4+].[OH-]
solvent | POCl3 | 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-Nitro-2-propyl-1H-benzoimidazole | 1.17 g | [N+](=O)([O-])C1=CC=CC=2NC(=NC21)CCC | C10H11N3O2
